US05693651
(2) 3-amino-7-(5-methyl-2-phenyl-4-oxazolylmethoxy)quinoline
In a mixture of ethanol (20 mL) and ethyl acetate (10 mL) was suspended 3-nitro-7-(5-methyl-2-phenyl-4-oxazolylmethoxy)quinoline (740 mg, 2.1 mmol.), and to the suspension was added 10% palladium/carbon (50 mg). Then, catalytic reduction was performed overnight. After the completion of reaction was confirmed, the reaction mixture was filtered over Celite®, and the filtrate was placed under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/7 to ethyl acetate), to give 280 mg of the desired compound as brown oil (yield 42%).

reactant | 3-nitro-7-(5-methyl-2-phenyl-4-oxazolylmethoxy)quinoline | 2.1 mmol, 740 mg | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C20H15N3O4
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 50 mg | [Pd] | Pd
product | 3-amino-7-(5-methyl-2-phenyl-4-oxazolylmethoxy)quinoline | 280 mg, yield 42% | NC=1C=NC2=CC(=CC=C2C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C20H17N3O2
